US20010027196A1
2-Amino-4-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile
From 3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-3-oxo-propionitrile with sodium hydride, carbon disulphide and methyl iodide in DMSO. Then treatment with guanidine nitrate and triethylamine in DMF. EI-MS m/e (%):300 (M+, 100), 299 ([M—H]+, 92).

reactant | 3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-3-oxo-propionitrile | O1CCOC2=C1C=CC(=C2)C(CC#N)=O | C11H9NO3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | guanidine nitrate | [N+](=O)(O)[O-].NC(=N)N
reactant | DMSO | CS(=O)C | C2H6OS
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | carbon disulphide | C(=S)=S | CS2
product | 2-Amino-4-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCCO2)C=C1)C#N)SC | C14H12N4O2S
